US04900472
A mixture of 120g of 2-(4-benzyloxyphenyl)-5-(4-butylpheny)pyrimidine, 13 g of palladium active carbon, 85 g of triethylamine, four liters of ethanol and one liter of ethyl acetate was stirred under a hydrogen atmosphere. After the palladium active carbon was removed and the solvent was distilled away, the residue was recrystallized by using a mixture of n-heptane and toluene, and 86 g of 5-(4-butylphenyl)-2-(4-hydroxylphenyl)pyrimidine was obtained. This compound showed melting points of 172.5°-173.3° C.

reactant | 2-(4-benzyloxyphenyl)-5-(4-butylpheny)pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)CCCC | C27H26N2O
reactant | triethylamine | 85 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | four liters | C(C)O | C2H6O
catalyst | palladium | 13 g | [Pd] | Pd
solvent | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
product | 5-(4-butylphenyl)-2-(4-hydroxylphenyl)pyrimidine | 86 g | C(CCC)C1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H20N2O
